US07592334B2
b) 6-Methoxy-4-oxo-1,4-dihydro-[1,5]naphthyridine-3-carboxylic acid ethyl ester
Dowtherm A (Fluka, 500 mL) was brought to boiling (250° C.) in a 2 L 3-neck flask fitted with a still-head and a reflux condenser. 2-[(6-Methoxypyridin-3-ylamino)methylene]malonic acid diethyl ester (100 g, 0.34 mole) was added portionwise over 5 min. The solution was heated at reflux for an additional 15 min, allowing some solvent to distill over. The resulting solution was cooled to RT and diluted with hexanes (750 mL). The mixture was cooled in ice for 1 hr, then the brown solid was filtered off, washed with hexanes, and dried under vacuum to afford the title compound (61.72 g, 73%).

reactant | 2-[(6-Methoxypyridin-3-ylamino)methylene]malonic acid diethyl ester | 0.34 mole, 100 g | C(C)OC(C(C(=O)OCC)=CNC=1C=NC(=CC1)OC)=O | C14H18N2O5
solvent | Dowtherm A | 500 mL | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | 6-Methoxy-4-oxo-1,4-dihydro-[1,5]naphthyridine-3-carboxylic acid ethyl ester | 61.72 g, 73% | C(C)OC(=O)C1=CNC2=CC=C(N=C2C1=O)OC | C12H12N2O4
